US04352805
EXAMPLE 10A 1-[2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzoxepin-1-yl)]ethyl]-4-(3-chlorophenyl]piperazine
A mixture of 2.00 g (7.39 mmol) of 2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzoxepin-1-yl)]ethyl chloride and 2.8 g (14.5 mmol) of 1-(3-chlorophenyl)piperazine is stirred at 85° for 36 hours in 1 ml of ethylene glycol and 10 ml of toluene. Excess toluene is added and the solids are removed by filtration from the warm solution. The organic phase is concentrated. The product was recrystallized from CH2Cl2 and toluene to give 1.09 g of product, m.p. 125°-126°.

reactant | 2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzoxepin-1-yl)]ethyl chloride | 7.39 mmol, 2.00 g | COC=1C(=CC2=C(CCCOC2CCCl)C1)OC | C14H19ClO3
reactant | 1-(3-chlorophenyl)piperazine | 14.5 mmol, 2.8 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
solvent | ethylene glycol | 1 ml | C(CO)O | C2H6O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzoxepin-1-yl)]ethyl]-4-(3-chlorophenyl]piperazine | 1.09 g | COC=1C(=CC2=C(CCCOC2CCN2CCN(CC2)C2=CC(=CC=C2)Cl)C1)OC | C24H31ClN2O3
